US07348354B2
1-(4-Dimethylamino-4-phenylcyclohexylmethyl)-3-[2-(1H-indol-3-yl)-1-methylethyl]thiourea
α-methyltryptamine (261.4 mg, 1.5 mmole) was dissolved in dry chloroform (15 ml) and combined with triethylamine (422 μl, 3 mmole). The mixture was cooled to −5° C. Thiophosgene (115 μl, 1.5 mmole) dissolved in chloroform (10 ml) was then added dropwise, resulting in the formation of a precipitate. After a reaction time of 18 h at RT, (4-aminomethyl-1-phenyl-cyclohexyl)-dimethylamine (348.55 mg, 1.5 mmole) dissolved in chloroform (10 ml) was added. After 20 h stirring at RT, the reaction mixture was clear. Working up was performed by washing the batch with saturated NaHCO3 solution (3×5 ml) and water (5 ml). The organic phase was dried with Na2SO4 and evaporated. The product was a mixture of two diastereoisomers. These were purified and separated by column chromatography [silica gel 60 (70 g); eluent: MeOH/EE 1:5 (1500 ml)]. The more nonpolar diastereoisomer of 1-(4-dimethylamino-4-phenylcyclohexylmethyl)-3-[2-(1H-indol-3-yl)-1-methyl-ethyl]thiourea (177 mg, m.p. 99-104° C., 26%) and also the more polar diastereoisomer of 1-(4-dimethylamino-4-phenylcyclohexylmethyl)-3-[2-(1H-indol-3-yl)-1-methylethyl]thiourea (152 mg, m.p. 93-95° C., 23%) were colorless solids.

reactant | α-methyltryptamine | 1.5 mmole, 261.4 mg | CC(N)CC1=CNC2=CC=CC=C12 | C11H14N2
reactant | triethylamine | 3 mmole, 422 μl | C(C)N(CC)CC | C6H15N
reactant | Thiophosgene | 1.5 mmole, 115 μl | C(=S)(Cl)Cl | CCl2S
reactant | (4-aminomethyl-1-phenyl-cyclohexyl)-dimethylamine | 1.5 mmole, 348.55 mg | NCC1CCC(CC1)(C1=CC=CC=C1)N(C)C | C15H24N2
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(4-Dimethylamino-4-phenylcyclohexylmethyl)-3-[2-(1H-indol-3-yl)-1-methylethyl]thiourea | CN(C1(CCC(CC1)CNC(=S)NC(CC1=CNC2=CC=CC=C12)C)C1=CC=CC=C1)C | C27H36N4S
